US05232946
4'-[2-[N-(2-Hydroxy-2-phenyl-ethyl)amino]ethyl]-4-methoxy-biphenyl
4 g (20 mmol) of phenacylbromide are dissolved in 20 ml of methylene chloride and added dropwise to a solution of 4.6 g (20 mmol) of 4'-(2-aminoethyl)-4-methoxy-biphenyl and 3.45 ml (20 mmol) of N,N-diisopropyl-ethylamine and 100 ml of methylene chloride at ambient temperature. After 2 hours, 50 ml of methanol are added and, with slight cooling, 1 g (27 mmol) of sodium borohydride is added in batches. After stirring overnight the mixture is evaporated in vacuo, acidified with dilute hydrochloric acid and stirred for 30 minutes. It is then made alkaline with sodium hydroxide solution and extracted with chloroform. The chloroform evaporation residue is purified by column chromatography on silica gel (eluant: chloroform/methanol=10:1). Finally, it is recrystallised from acetonitrile.

reactant | phenacylbromide | 20 mmol, 4 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 4'-(2-aminoethyl)-4-methoxy-biphenyl | 20 mmol, 4.6 g | NCCC1=CC=C(C=C1)C1=CC=C(C=C1)OC | C15H17NO
reactant | N,N-diisopropyl-ethylamine | 20 mmol, 3.45 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium borohydride | 27 mmol, 1 g | [BH4-].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
product | 4'-[2-[N-(2-Hydroxy-2-phenyl-ethyl)amino]ethyl]-4-methoxy-biphenyl | OC(CNCCC1=CC=C(C=C1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C23H25NO2
